US09388147B2
Methyl 3-chloro-4-isopropoxybenzoate
Prepared from methyl 3-chloro-4-hydroxybenzoate according to the procedure for methyl 3-bromo-5-isopropoxybenzoate. LCMS-ESI (m/z) calculated for C11H13ClO3: 228.7. found 229.1 [M+H]+, tR=3.90 min. 1H NMR (400 MHz, CDCl3) δ 8.05 (d, J=2.1 Hz, 1H), 7.89 (dd, J=8.7, 2.2 Hz, 1H), 6.94 (d, J=8.8 Hz, 1H), 4.67 (dt, J=12.2, 6.1 Hz, 1H), 3.89 (s, 3H), 1.37 (dd, J=34.4, 30.1 Hz, 6H).

reactant | methyl 3-chloro-4-hydroxybenzoate | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | methyl 3-bromo-5-isopropoxybenzoate | BrC=1C=C(C(=O)OC)C=C(C1)OC(C)C | C11H13BrO3
product | Methyl 3-chloro-4-isopropoxybenzoate | ClC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13ClO3
